US05286721
To a stirred solution of aminoacetonitrile hydrochloride (5.95 g) in a mixture of water (100 ml) and tetrahydrofuran (100 ml) was added slowly 2 -(methylthio)nicotinoyl chloride (10 g) at 0° C. while adjusting pH to 8-9 with 4N-aqueous sodium hydroxide. After stirring for 30 minutes at 0° C., the solvent was evaporated to give a residue, which was chromatographed on silica gel (350 ml) eluting with ethyl acetate to give [2-(methylthio)nicotinoyl]aminoacetonitrile (9.9 g).

reactant | aminoacetonitrile hydrochloride | 5.95 g | Cl.NCC#N
reactant | 2 -(methylthio)nicotinoyl chloride | 10 g | CSC1=C(C(=O)Cl)C=CC=N1 | C7H6ClNOS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | [2-(methylthio)nicotinoyl]aminoacetonitrile | 9.9 g | CSC1=C(C(=O)NCC#N)C=CC=N1 | C9H9N3OS
